US09233979B2
A 20 mL microwave vial was charged with cesium carbonate (907 mg, 2.78 mmol), tert-butyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate (500 mg, 0.928 mmol), benzyl carbamate (421 mg, 2.78 mmol), 2-(dicyclohexylphosphino)3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl (34.9 mg, 0.065 mmol) and BrettPhos-G3-Pd (58.9 mg, 0.065 mmol). Dioxane (10 ml) was added, the vial was flushed with argon, capped and the contents heated to 100° C. with stirring for 16 h. The reaction mixture was diluted with DCM/i-PrOH (4:1, 50 mL) and washed with brine (2×50 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel (ISCO; 24 g prepacked) eluting with ethyl acetate/hexanes to afford tert-butyl(6-(((benzyloxy)carbonyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate (225 mg, 0.344 mmol, 37.1% yield) as a white solid. MS ESI calc'd. For C40H40N5O4 [M+H]+ 654. found 654.

reactant | cesium carbonate | 2.78 mmol, 907 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 0.928 mmol, 500 mg | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)Cl)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C32H31ClN4O2
reactant | benzyl carbamate | 2.78 mmol, 421 mg | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | 2-(dicyclohexylphosphino)3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl | 0.065 mmol, 34.9 mg | C1(CCCCC1)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C35H53O2P
solvent | Dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | tert-butyl(6-(((benzyloxy)carbonyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 0.344 mmol, 225 mg, 37.1% yield | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)NC(=O)OCC2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C40H39N5O4
